US05585385
1-Methyl-2,3-pyrroledicarboxylic anhydride and fluorobenzene were subjected to substantially the same reaction and process as in Reference Example 1 Process 1 in the presence of aluminum chloride to give 3-(4-fluorobenzoyl)-1-methyl-2-pyrrolecarboxylic acid as colorless crystals.

reactant | 1-Methyl-2,3-pyrroledicarboxylic anhydride | CN1C2=C(C=C1)C(=O)OC2=O | C7H5NO3
reactant | fluorobenzene | FC1=CC=CC=C1 | C6H5F
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 3-(4-fluorobenzoyl)-1-methyl-2-pyrrolecarboxylic acid | FC1=CC=C(C(=O)C2=C(N(C=C2)C)C(=O)O)C=C1 | C13H10FNO3
